US04751018
Into 20 g of this 4-acetoxy-α-methylcinnamic acid was dropped 100 g of thionyl chloride, reaction was carried out under reflux for 2 hours, unreacted thionyl chloride was removed by distillation and the reaction product was subjected to distillation under a reduced pressure to obtain 19 g of 4-acetoxy-α-methylcinnamic acid chloride. This acid chloride was dissolved in 100 ml of acetone, 11 g of l-2-octanol and 10 g of triethylamine were added to the solution, and the reaction was carried out for 10 hours under reflux. The precipitated triethylamine hydrochloride was removed by filtration, acetone was removed from the filtrate by using an evaporator, and the ether-soluble component was extracted from the residue with diethyl ether. The unreacted acid chloride was removed, and extract was dehydrated on magnesium sulfate overnight, and subsequently, diethyl ether and remaining l-2-octanol were removed by distillation under a reduced pressure. Then, 100 ml of acetone and 100 ml of an aqueous saturated solution of sodium carbonate were added to the residue and reaction was carried out under reflux for 15 hours. The obtained product was hydrolyzed and extracted with ether again. The extract was dehydrated and ether was evaporated to obtain 15 g of 1R-methylheptyl 4-hydroxy-α-methylcinnamate.

reactant | 4-acetoxy-α-methylcinnamic acid | 20 g | C(C)(=O)OC1=CC=C(C=C(C(=O)O)C)C=C1 | C12H12O4
reactant | thionyl chloride | 100 g | S(=O)(Cl)Cl | Cl2OS
product | 4-acetoxy-α-methylcinnamic acid chloride | 19 g | C(C)(=O)OC1=CC=C(C=C(C(=O)Cl)C)C=C1 | C12H11ClO3
